US05288913
188 g of phenol were reacted with 89 g of 65% strength oleum in the presence of 272 g of o-dichlorobenzene analogously to Example 1. When the reaction had ended, the 4,4'-dihydroxydiphenyl sulfone formed was filtered off directly from the reaction mixture with suction. 234 g of reaction product were obtained, which corresponds to a yield of 93% of theory, based on the phenol. The content of 4,4'-dihydroxydiphenyl sulfone (high performance liquid chromatography) was 79% by area.

reactant | phenol | 188 g | C1(=CC=CC=C1)O | C6H6O
reactant | oleum | OS(=O)(=O)O.O=S(=O)=O
solvent | o-dichlorobenzene | 272 g | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 4,4'-dihydroxydiphenyl sulfone | yield of 93% | C1=CC(=CC=C1O)S(=O)(=O)C2=CC=C(C=C2)O | C12H10O4S
